US09334290B2
A solution of 2-amino-N-(3-bromo-2-methylphenyl)benzamide (2.00 g, 6.55 mmol) in THF (50 mL) was treated with bis(trichloromethyl)carbonate[triphosgene] (2.92 g, 9.83 mmol) and heated at reflux for 60 min. The cooled mixture was treated with saturated aqueous NaHCO3, extracted with EtOAc, and the combined organic phases were washed twice with saturated NaHCO3, then with water, dried and concentrated. The residue was triturated with DCM to give a white solid which was collected by filtration. The residue from concentration of the filtrate was triturated with DCM to give additional white solid which was collected by filtration. The two solids were combined to give 3-(3-bromo-2-methylphenyl)quinazoline-2,4(1H,3H)-dione as a white solid (2.10 g, 97% yield). Mass spectrum m/z 331, 333 (M+H)+. 1H NMR (400 MHz, MeOH-d4) δ 8.07 (dd, J=7.92, 1.32 Hz, 1H), 7.65-7.75 (m, 2H), 7.21-7.32 (m, 4H), 2.20 (s, 3H). 1H NMR (400 MHz, chloroform-d) δ 9.38 (br. s., 1H), 8.19 (dd, J=7.9, 1.1 Hz, 1H), 7.76-7.69 (m, 1H), 7.69-7.60 (m, 1H), 7.35-7.17 (m, 3H), 7.04-6.97 (m, 1H), 2.28 (s, 3H).

reactant | 2-amino-N-(3-bromo-2-methylphenyl)benzamide | 6.55 mmol, 2.00 g | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)C)C=CC=C1 | C14H13BrN2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(3-bromo-2-methylphenyl)quinazoline-2,4(1H,3H)-dione | 2.10 g, 97% yield | BrC=1C(=C(C=CC1)N1C(NC2=CC=CC=C2C1=O)=O)C | C15H11BrN2O2
